datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>CC1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])[H])C)CC>>CCCCCCN([C:20]1(OC(C([O:21]1)[H])C)[O-:10])CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.CC[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([K])C([H])C(O)=C1[H]>>[O:10]([K])C([H])/C(O)=C([C:20](OC)=[O:21])/[H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21]CC>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])C 21=20;20,10=10"
"[NH:10](C)C(CC)C(O)C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C(O)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C(C)C(O)C1O>>[O-:10]C(C)C(O)C([C:20](C)=[O:21])O 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"[OH:10]C([H])C(C)C(O)C(C)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)C(O)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OC)[H])C>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OC)[H])C 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"C[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C1=CC=CC=C1)C>>[H]C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)C.[O-:21]C 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C([H])=C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])/C(C)=C([H])\C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(C)C(C)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C(C)C(C)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][O:10][H].[H][O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]2([H])C(C([H])C3=C([NH+:10]2([H]))C=CC=C3)O>>[NH:10]([H])C(C=CC=C1)=C1C([H])C([C:20]([H])=[OH+:21])O 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]C 10=20;20,21=21"
"[NH:10](C)C(C)C(O)C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C(O)C(C)[NH+:10]1(C) 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C([H])C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
